US07459472B2
3-Biphenyl-4-yl-2-(S)-[2-(3,4-bis-benzyloxy-benzyloxy)-5-bromo-benzoylamino]-propionic acid methyl ester (60 mg, 0.079 mmol) was dissolved in 5 mL of THF-MeOH (4-1), cooled to 0° C. and 1.1 equiv of 2 N LiOH added. After 30 minutes, 2.2 additional equiv of 2N LiOH was added and the reaction stirred for 30 minutes. The reaction was worked up according to general procedure C to give 3-biphenyl-4-yl-2-(S)-[2-(3,4-bis-benzyloxy-benzyloxy)-5-bromo-benzoylamino]-propionic acid (47 mg). 1H-NMR(400 MHz, DMSO-d6): 2.83 (m, 1H), 3.13 (m, 1H), 4.67 (m, 1H), 5.02 (s, 2H), 5.06 (s, 2H), 5.17, (m, 2H), 6.92 (m, 1H), 6.96 (m, 1H), 7.13 (d, 2H), 7.18-7.22 (m, 2H), 7.27-7.41 (m, 13H), 7.44 (d, 2H), 7.56 (m, 2H), 7.61 (m, 1H), 7.83 (m, 1H), 8.50 (d, 1H); LC/MS (m/z): 742 (M+1)+.

reactant | 3-Biphenyl-4-yl-2-(S)-[2-(3,4-bis-benzyloxy-benzyloxy)-5-bromo-benzoylamino]-propionic acid methyl ester | 0.079 mmol, 60 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)OCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C44H38BrNO6
reactant | LiOH | 2 N, 1.1 equiv | [Li+].[OH-]
reactant | LiOH | 2N | [Li+].[OH-]
solvent | THF MeOH | 5 mL | C1CCOC1.CO
product | 3-biphenyl-4-yl-2-(S)-[2-(3,4-bis-benzyloxy-benzyloxy)-5-bromo-benzoylamino]-propionic acid | 47 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(C1=C(C=CC(=C1)Br)OCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C43H36BrNO6
